US04272534
A solution of methyl 2-(pyrid-2-yl)tetrahydrothiophene-2-carbodithioate (6.4 g) and n-heptylamine (2.9 g) in ethanol (75 cc) is heated under reflux for 2 hours 30 minutes. The reaction mixture is concentrated to dryness (20 mm Hg; 2.7 kPa) at 40° C. 6.8 g of a product prepared under the same conditions are added to the resulting residue (8.2 g) and the whole is chromatographed on neutral silica gel (150 g) contained in a column of diameter 3.5 cm. Elution is carried out with a cyclohexane-ethyl acetate mixture (98:2 by volume; 7300 cc), the following fractions of eluate being collected: fraction 1: 600 cc, fractions 2 to 8: 250 cc each and fractions 9 to 47: 100 cc each. Fractions 14 to 40 are combined and concentrated to dryness under reduced pressure (2 mm Hg; 0.27 kPa) at a temperature of 40° C. N-n-Heptyl-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide (8.3 g) is thus obtained in the form of a clear yellow liquid [Rf=0.40; chromatography on a thin layer of silica gel; solvent: cyclohexane-ethyl acetate (80:20 by volume)].

reactant | methyl 2-(pyrid-2-yl)tetrahydrothiophene-2-carbodithioate | 6.4 g | N1=C(C=CC=C1)C1(SCCC1)C(=S)SC | C11H13NS3
reactant | n-heptylamine | 2.9 g | C(CCCCCC)N | C7H17N
solvent | ethanol | 75 cc | C(C)O | C2H6O
product | N-n-Heptyl-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide | 8.3 g | C(CCCCCC)NC(=S)C1(SCCC1)C1=NC=CC=C1 | C17H26N2S2
